US08809579B2
N-[4-((1R)-1-{(R)-(4-trifluoromethoxyphenyl)[3-cyano-5-(trifluoromethyl)phenoxy]methyl}butyl)benzoyl]-β-alanine
Using the procedure from EXAMPLE 75, 3-trifluoromethyl-5-fluorobenzonitrile and N-(4-{(1R)-1-[(R)-(4-trifluoromethoxyphenyl)(hydroxy)methyl]butyl}benzoyl)-β-alanine were converted to the title compound. LC3 4.01 min. (M+H)+ 609.

reactant | 3-trifluoromethyl-5-fluorobenzonitrile | FC(C=1C=C(C#N)C=C(C1)F)(F)F | C8H3F4N
reactant | N-(4-{(1R)-1-[(R)-(4-trifluoromethoxyphenyl)(hydroxy)methyl]butyl}benzoyl)-β-alanine | FC(OC1=CC=C(C=C1)[C@@H]([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)O)(F)F | C22H24F3NO5
product | N-[4-((1R)-1-{(R)-(4-trifluoromethoxyphenyl)[3-cyano-5-(trifluoromethyl)phenoxy]methyl}butyl)benzoyl]-β-alanine | FC(OC1=CC=C(C=C1)[C@@H]([C@H](CCC)C1=CC=C(C(=O)NCCC(=O)O)C=C1)OC1=CC(=CC(=C1)C(F)(F)F)C#N)(F)F | C30H26F6N2O5
